US07176310B1
C. {2-[5-(4-Fluorophenylcarbamoyl)-2-methylsulfanylpyrimidin-4-ylamino]-ethyl}carbamic acid tert-butyl ester
tert-Butyl N-(2-aminoethyl)carbamate (0.500 g, 3.12 mmol) and DIPEA (0.83 mL, 4.68 mmol, 1.5 eq) was added to a solution of 4-chloro-2-methylsulfanylpyrimidine-5-carboxylic acid (4-fluorophenyl)amide (0.929 g, 3.12 mmol) in DMF (5.0 ml) and stirred under N2 overnight. The reaction mixture was diluted with ethyl acetate (50 mL) and washed twice with water (50 mL). Upon precipitation of product out of the organic layer of the mixture, the white solid was filtered, and recrystallized from hot ethyl acetate to yield 1.06 g (80%) of the titled product as a white solid. 1H NMR: (d6-DMSO) δ 10.21 (s, 1H), 8.56 (s, 1H), 7.64 (m, 2H), 7.16 (m, 2H), 6.92 (t, 1H), 3.48 (m, 2H), 3.30 (s, 3H), 3.11 (m, 2H), 1.31 (s, 9H); HPLC: Rt=4.32 min; MS (ESI): m/z 419.97 (M−H)−.

reactant | tert-Butyl N-(2-aminoethyl)carbamate | 3.12 mmol, 0.500 g | NCCNC(OC(C)(C)C)=O | C7H16N2O2
reactant | DIPEA | 4.68 mmol, 0.83 mL, 1.5 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-chloro-2-methylsulfanylpyrimidine-5-carboxylic acid (4-fluorophenyl)amide | 3.12 mmol, 0.929 g | FC1=CC=C(C=C1)NC(=O)C=1C(=NC(=NC1)SC)Cl | C12H9ClFN3OS
solvent | DMF | 5.0 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | {2-[5-(4-Fluorophenylcarbamoyl)-2-methylsulfanylpyrimidin-4-ylamino]-ethyl}carbamic acid tert-butyl ester | 1.06 g, 80% | C(C)(C)(C)OC(NCCNC1=NC(=NC=C1C(NC1=CC=C(C=C1)F)=O)SC)=O | C19H24FN5O3S
